*****
* RECTIFIE.LIB
*****
*
*model R710XPT
*               ANODE1
*               | ANODE2
*               | | CATHODE
*               | | |
.SUBCKT R710XPTD 1 2 3
D1 1 3 DR
D2 2 3 DR
.MODEL DR D (IS=6.28337U RS=9.90056M N=2.18978 TT=144.27N
+ CJO=567.005P VJ=772.37M M=510.153M BV=50 RL=1G)
.ENDS
*
*model R711XPT
*               ANODE1
*               | ANODE2
*               | | CATHODE
*               | | |
.SUBCKT R711XPTD 1 2 3
D1 1 3 DR
D2 2 3 DR
*
.MODEL DR D (IS=6.28337U RS=9.90056M N=2.18978 TT=144.27N
+ CJO=567.005P VJ=772.37M M=510.153M BV=100 RL=1G)
.ENDS
*
*model R712XPT
*               ANODE1
*               | ANODE2
*               | | CATHODE
*               | | |
.SUBCKT R712XPTD 1 2 3
D1 1 3 DR
D2 2 3 DR
*
.MODEL DR D (IS=6.28337U RS=9.90056M N=2.18978 TT=144.27N
+ CJO=567.005P VJ=772.37M M=510.153M BV=200 RL=1G)
.ENDS
*
*model R714XPT
*               ANODE1
*               | ANODE2
*               | | CATHODE
*               | | |
.SUBCKT R714XPTD 1 2 3
D1 1 3 DR
D2 2 3 DR
*
.MODEL DR D (IS=6.28337U RS=9.90056M N=2.18978 TT=144.27N
+ CJO=567.005P VJ=772.37M M=510.153M BV=400 RL=1G)
.ENDS
*
*
*MODEL MUR1605CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR1605CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=283.485N RS=6.49465M N=1.90296 TT=50.4943N
+ CJO=249.663P VJ=1.10397 M=414.996M BV=50 RL=1G)
.ENDS
*
*MODEL MUR1610CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR1610CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=283.485N RS=6.49465M N=1.90296 TT=50.4943N
+ CJO=249.663P VJ=1.10397 M=414.996M BV=100 RL=1G)
.ENDS
*
*MODEL MUR1615CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR1615CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=283.485N RS=6.49465M N=1.90296 TT=50.4943N
+ CJO=249.663P VJ=1.10397 M=414.996M BV=150 RL=1G)
.ENDS
*
*MODEL MUR1620CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR1620CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=149.015N RS=99.3072M N=1.91706 TT=50.4943N
+ CJO=300.186P VJ=4.54979 M=599.671M BV=200 RL=1G)
.ENDS
*
*MODEL MUR1630CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR1630CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=149.015N RS=99.3072M N=1.91706 TT=86.5617N
+ CJO=300.186P VJ=4.54979 M=599.671M BV=300 RL=1G)
.ENDS
*
*MODEL MUR1640CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR1640CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=149.015N RS=99.3072M N=1.91706 TT=86.5617N
+ CJO=300.186P VJ=4.54979 M=599.671M BV=400 RL=1G)
.ENDS
*
*MODEL MUR1650CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR1650CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=4.30263U RS=125.405M N=2.5 TT=86.5617N
+ CJO=300.186P VJ=4.54979 M=599.671M BV=500 RL=1G)
.ENDS
*
*MODEL MUR1660CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR1660CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=4.30263U RS=125.405M N=2.5 TT=86.5617N
+ CJO=300.186P VJ=4.54979 M=599.671M BV=600 RL=1G)
.ENDS
*
*MODEL MUR3005PT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR3005PTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=10U RS=22.3215M N=2.14106 TT=50.4943N CJO=495.695P
+ VJ=987.335M M=482.391M BV=50 RL=1G)
.ENDS
*
*MODEL MUR3010PT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR3010PTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=10U RS=22.3215M N=2.14106 TT=50.4943N CJO=495.695P
+ VJ=987.335M M=482.391M BV=100 RL=1G)
.ENDS
*
*MODEL MUR3015PT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR3015PTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=10U RS=22.3215M N=2.14106 TT=50.4943N CJO=495.695P
+ VJ=987.335M M=482.391M BV=150 RL=1G)
.ENDS
*
*MODEL MUR3020PT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR3020PTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=9.99999U RS=15.0055M N=2.43098 TT=50.4943N
+ CJO=495.695P VJ=987.335M M=482.391M BV=200 RL=1G)
.ENDS
*
*MODEL MUR3030PT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR3030PTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=9.99999U RS=15.0055M N=2.43098 TT=86.5617N
+ CJO=495.695P VJ=987.335M M=482.391M BV=300 RL=1G)
.ENDS
*
*MODEL MUR3040PT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR3040PTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=9.99999U RS=15.0055M N=2.43098 TT=86.5617N
+ CJO=495.695P VJ=987.335M M=482.391M BV=400 RL=1G)
.ENDS
*
*MODEL MUR3050PT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR3050PTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=8.80695U RS=59.9855M N=2.5 TT=86.5617N
+ CJO=495.695P VJ=987.335M M=482.391M BV=500 RL=1G)
.ENDS
*
*MODEL MUR3060PT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR3060PTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=8.80695U RS=59.9855M N=2.5 TT=86.5617N
+ CJO=495.695P VJ=987.335M M=482.391M BV=600 RL=1G)
.ENDS
*
*MODEL MUR10005CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR10005CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=10U RS=1.22834M N=2.15276 TT=72.1348N CJO=737.715P
+ VJ=34.3411M M=258.355M BV=50 RL=1G)
.ENDS
*
*MODEL MUR10010CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR10010CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=10U RS=1.22834M N=2.15276 TT=72.1348N CJO=737.715P
+ VJ=34.3411M M=258.355M BV=100 RL=1G)
.ENDS
*
*MODEL MUR10015CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR10015CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=10U RS=1.22834M N=2.15276 TT=72.1348N CJO=737.715P
+ VJ=34.3411M M=258.355M BV=150 RL=1G)
.ENDS
*
*MODEL MUR10020CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR10020CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
.MODEL DM D (IS=10U RS=1.22834M N=2.15276 TT=72.1348N CJO=737.715P
+ VJ=34.3411M M=258.355M BV=200 RL=1G)
.ENDS
*
*MODEL MURD605CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MURD605CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=4.74972N RS=26.6112M N=1.62954 TT=50.4943N
+ CJO=37.8783P VJ=992.618M M=554.055M BV=50 RL=1G)
.ENDS
*
*MODEL MURD610CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MURD610CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=4.74972N RS=26.6112M N=1.62954 TT=50.4943N
+ CJO=37.8783P VJ=992.618M M=554.055M BV=100 RL=1G)
.ENDS
*
*MODEL MURD615CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MURD615CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=4.74972N RS=26.6112M N=1.62954 TT=50.4943N
+ CJO=37.8783P VJ=992.618M M=554.055M BV=150 RL=1G)
.ENDS
*
*MODEL MURD620CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MURD620CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=4.74972N RS=26.6112M N=1.62954 TT=50.4943N
+ CJO=37.8783P VJ=992.618M M=554.055M BV=200 RL=1G)
.ENDS
*
*MODEL MBR2035CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR2035CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=11.7011M N=1.08406 CJO=1.04258N
+ VJ=330.666M M=400.779M BV=35 RL=1.11111MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBR2045CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR2045CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=11.7011M N=1.08406 CJO=1.04258N
+ VJ=330.666M M=400.779M BV=45 RL=1.11111MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBR3020CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR3020CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=36.1705N RS=8.17581M N=800M CJO=2.9198N
+ VJ=172.996M M=384.79M BV=20 RL=1.00363MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBR3035CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR3035CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=36.1705N RS=8.17581M N=800M CJO=2.9198N
+ VJ=172.996M M=384.79M BV=35 RL=1.00363MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBR3045CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR3045CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=36.1705N RS=8.17581M N=800M CJO=2.9198N
+ VJ=172.996M M=384.79M BV=45 RL=1.00363MEG XTI=2 EG=.69)
.ENDS
*
*MODEL SD241
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT SD241D 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=36.1705N RS=8.17581M N=800M CJO=2.9198N
+ VJ=172.996M M=384.79M BV=45 RL=1.00363MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBR3035PT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR3035PTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=10.3154N RS=7.84114M N=800M CJO=2.9198N
+ VJ=172.996M M=384.79M BV=35 RL=1.00103MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBR3045PT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR3045PTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=10.3154N RS=7.84114M N=800M CJO=2.9198N
+ VJ=172.996M M=384.79M BV=45 RL=1.00103MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBR12035CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR12035CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=2.20594M N=1.14615 CJO=5.39904N
+ VJ=300.636M M=488.537M BV=35 RL=3.2MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBR12045CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR12045CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=2.20594M N=1.14615 CJO=5.39904N
+ VJ=300.636M M=488.537M BV=45 RL=3.2MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBR12050CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR12050CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=2.20594M N=1.14615 CJO=5.39904N
+ VJ=300.636M M=488.537M BV=50 RL=3.2MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBR12060CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR12060CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=10U RS=2.01797M N=1.35056 CJO=5.39904N
+ VJ=300.636M M=488.537M BV=60 RL=3.2MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBR30035CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR30035CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=1.06359M N=1.04316 CJO=105.919N
+ VJ=4.35998M M=465.059M BV=35 RL=555.555K XTI=2 EG=.69)
.ENDS
*
*MODEL MBR30045CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR30045CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=1.06359M N=1.04316 CJO=105.919N
+ VJ=4.35998M M=465.059M BV=45 RL=555.555K XTI=2 EG=.69)
.ENDS
*
*MODEL MBR30050CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR30050CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=1.06359M N=1.04316 CJO=105.919N
+ VJ=4.35998M M=465.059M BV=50 RL=555.555K XTI=2 EG=.69)
.ENDS
*
*MODEL MBR30060CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR30060CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=1.06359M N=1.04316 CJO=105.919N
+ VJ=4.35998M M=465.059M BV=60 RL=555.555K XTI=2 EG=.69)
.ENDS
*
*MODEL MBRD620CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBRD620CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=10U RS=54.0483M N=1.35889 CJO=810.581P
+ VJ=1.96286 M=893.551M BV=20 RL=8.33333MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBRD630CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBRD630CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=55.2385M N=1.12439 CJO=810.581P
+ VJ=1.96286 M=893.551M BV=30 RL=8.33333MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBRD640CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBRD640CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=55.2385M N=1.12439 CJO=810.581P
+ VJ=1.96286 M=893.551M BV=40 RL=8.33333MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBRD650CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBRD650CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=55.2385M N=1.12439 CJO=810.581P
+ VJ=1.96286 M=893.551M BV=50 RL=8.33333MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MBRD660CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBRD660CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=55.2385M N=1.12439 CJO=810.581P
+ VJ=1.96286 M=893.551M BV=60 RL=8.33333MEG XTI=2 EG=.69)
.ENDS
*
*MODEL MUR20005CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR20005CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=4.42577M N=1.83278 TT=72.1348N
+ CJO=1.09046N VJ=662.593M M=374.673M BV=50 RL=49.9999MEG)
.ENDS
*
*MODEL MUR20010CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR20010CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=4.42577M N=1.83278 TT=72.1348N
+ CJO=1.09046N VJ=662.593M M=374.673M BV=100 RL=49.9999MEG)
.ENDS
*
*MODEL MUR20015CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR20015CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=4.42577M N=1.83278 TT=72.1348N
+ CJO=1.09046N VJ=662.593M M=374.673M BV=150 RL=49.9999MEG)
.ENDS
*
*MODEL MUR20020CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR20020CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=4.42577M N=1.83278 TT=72.1348N
+ CJO=1.09046N VJ=662.593M M=374.673M BV=200 RL=49.9999MEG)
.ENDS
*
*MODEL MUR20030CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR20030CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=5.83352M N=1.7032 TT=108.202N
+ CJO=4.99872N VJ=5.9134M M=331.232M BV=300 RL=966.115MEG)
.ENDS
*
*MODEL MUR20040CT
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MUR20040CTD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=5.83352M N=1.7032 TT=108.202N
+ CJO=4.99872N VJ=5.9134M M=331.232M BV=400 RL=966.115MEG)
.ENDS
*
*MODEL MBR20015CTL
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR20015CTLD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=443.119U N=800M CJO=17.8867N VJ=1.23878
+ M=673.995M BV=15 RL=50.2513K XTI=2 EG=.69)
.ENDS
*
*MODEL MBR20020CTL
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR20020CTLD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=1000N RS=443.119U N=800M CJO=17.8867N VJ=1.23878
+ M=673.995M BV=20 RL=50.2513K XTI=2 EG=.69)
.ENDS
*
*MODEL MBR20025CTL
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR20025CTLD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=10U RS=641.23U N=883.214M CJO=17.8867N
+ VJ=1.23878 M=673.995M BV=25 RL=50.2513K XTI=2 EG=.69)
.ENDS
*
*MODEL MBR20030CTL
*                 ANODE1
*                 | ANODE2
*                 | | CATHODE
*                 | | |
.SUBCKT MBR20030CTLD 1 2 3
D1 1 3 DM
D2 2 3 DM
*
.MODEL DM D (IS=10U RS=641.289U N=883.202M CJO=17.8867N
+ VJ=1.23878 M=673.995M BV=30 RL=50.2513K XTI=2 EG=.69)
.ENDS
